data/mechanism_extracts/Catalysts/10.3390_catal13030631.json
{"doi": "10.3390_catal13030631", "journal": "Catalysts", "is_review": false, "rxn_class_summary": "Electrochemical thiocyanation/cyclization cascade of N-(2-alkenylaryl)amides with NH4SCN to give 4-thiocyanatomethyl-4H-benzo[d][1,3]oxazines", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of thiocyanate anion to thiocyanate radical (via (SCN)2), which adds to the alkene; the resulting C-radical is further oxidized at the anode to a carbocation; cathode reduces protons to H2", "key_intermediates": [{"name": "thiocyanate radical (SCN•) / (SCN)2", "smiles": "[S]C#N", "role": "reactive"}, {"name": "C-centered benzylic radical from SCN• addition to alkene (intermediate I)", "smiles": null, "role": "transient"}, {"name": "benzylic carbocation after SET oxidation (intermediate II)", "smiles": null, "role": "reactive"}, {"name": "protonated oxazine intermediate after intramolecular O-attack (intermediate III)", "smiles": null, "role": "transient"}, {"name": "4-methyl-2-phenyl-4-(thiocyanatomethyl)-4H-benzo[d][1,3]oxazine (3a)", "smiles": "N#CSCC1(C)c2ccccc2N=C(c2ccccc2)O1", "role": "reactive"}], "electron_flow": "Anode oxidizes SCN- to SCN• (through (SCN)2); SCN• adds to the alkene of 1a to give C-radical I, which is further oxidized at the anode (SET) to carbocation II; intramolecular nucleophilic attack of the amide oxygen and deprotonation deliver oxazine 3a, while protons are reduced to H2 at the Pt cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Only trace 3a formed, indicating a radical pathway"}, {"name": "1,1-diphenylethylene", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "SCN-DPE adduct 3a' detected by GC-MS, confirming SCN radical intermediate"}, {"name": "cyclic voltammetry of 1a and NH4SCN with/without H2SO4", "smiles": null, "purpose": "redox_probe", "observation": "Eox(2) = 1.48 V vs Eox(1a) = 2.27 V; SCN- is preferentially oxidized; with acid, secondary oxidation of SCN species (to (SCN)3-/(SCN)2-) is observed"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_other", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "Acid (H2SO4) is essential — without it CV shows no 1a oxidation and yield drops sharply; acid promotes secondary oxidation of SCN species, analogous to halide (SCN-/(SCN)3-/(SCN)2-) behavior. Mechanism is the only one proposed; no DFT or KIE reported."}
